US06509328B1
{2′-Fluoro-3-[3-(3-nitro-phenyl)-3-oxo-propionylamino]-biphenyl-4-yl}-carbamic Acid tert.-Butyl Ester
Prepared from (3-amino-2′-fluoro-biphenyl-4-yl)-carbamic acid tert.-butyl ester (Example G37) and 2,2-dimethyl-6-(3-nitro-phenyl)-[1,3]dioxin-4-one (Example J12) according to the general procedure K. Obtained as a yellow solid (113 mg).

reactant | (3-amino-2′-fluoro-biphenyl-4-yl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=CC=C1)F)N)=O | C17H19FN2O2
reactant | 2,2-dimethyl-6-(3-nitro-phenyl)-[1,3]dioxin-4-one | CC1(OC(=CC(O1)=O)C1=CC(=CC=C1)[N+](=O)[O-])C | C12H11NO5
product | {2′-Fluoro-3-[3-(3-nitro-phenyl)-3-oxo-propionylamino]-biphenyl-4-yl}-carbamic Acid tert.-Butyl Ester | 113 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=CC=C1)F)NC(CC(=O)C1=CC(=CC=C1)[N+](=O)[O-])=O)=O | C26H24FN3O6
